US04252557
1. Ethyl-N-(3-(N-(1,1-dimethylpropinyl)-carbamoyloxy)-phenyl)-carbamate
Into a solution of 5.0 g (0.06 mole) of 1,1-dimethypropinylamine in 30 ml acetic ester is dropped, after addition of 50 ml water, at 10° to 15° C., while stirring, a solution of 14.6 g (0.06 mole) chloroformic acid-3-(N-carbethoxyamino)-phenyl ester in 30 ml acetic ester and simultaneously a solution of 8.3 g (0.06 mole) potassium carbonate in 30 ml water, the reaction product crystallizing out. Stirring is continued for 30 minutes while cooling with ice. The product is suction-filtered and washed with ether and water.

reactant | 1,1-dimethypropinylamine | 0.06 mole, 5.0 g | CC(C#C)(C)N | C5H9N
reactant | chloroformic acid-3-(N-carbethoxyamino)-phenyl ester | 0.06 mole, 14.6 g | C(=O)(OCC)NC=1C=C(C=CC1)OC(=O)Cl | C10H10ClNO4
reactant | potassium carbonate | 0.06 mole, 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | Ethyl-N-(3-(N-(1,1-dimethylpropinyl)-carbamoyloxy)-phenyl)-carbamate | C(C)OC(NC1=CC(=CC=C1)OC(NC(C#C)(C)C)=O)=O | C15H18N2O4
